US07956188B2
Step 2: Preparation of 3-fluoro-6-methoxyquinoline
To boron trifluoride etherate (1.29 g) at −12° C. under an atmosphere of nitrogen was added with stirring a solution of 3-amino-6-methoxyquinoline (1.05 g) in dry dichloromethane (15 ml). The yellow suspension was stirred for 15 minutes then a solution of t-butylnitrite (0.74 g) in dichloromethane (5 ml) was added dropwise. The mixture was stirred for 2 hours at 0° C. then 1,2-dichlorobenzene was added and the mixture gradually heated to 73° C., allowing the dichloromethane to distil out from the reaction vessel and then increased to 90° C. to complete the reaction. The mixture was allowed to cool to ambient temperature, diluted with dichloromethane, washed with water, dried over magnesium sulfate, filtered then evaporated under reduced pressure to give a black oil that was fractionated by chromatography (silica; hexane/ethyl acetate) to give an oil, 0.54 g, containing the required product. MH+178

reactant | boron trifluoride etherate | 1.29 g | B(F)(F)F.CCOCC
reactant | 3-amino-6-methoxyquinoline | 1.05 g | NC=1C=NC2=CC=C(C=C2C1)OC | C10H10N2O
reactant | t-butylnitrite | 0.74 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | 1,2-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-fluoro-6-methoxyquinoline | FC=1C=NC2=CC=C(C=C2C1)OC | C10H8FNO
